US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea
Ethyl 3-aminobenzoate (373 mg) was dissolved in tetrahydrofuran (60 ml), under ice-cooling triphosgene (225 mg) was added, triethylamine (194 μl) was added thereto five times every 3 minutes, a solution of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (856 mg) in tetrahydrofuran (15 ml) was added thereto, the mixture was allowed to come to room temperature and stirred overnight. The reaction mixture was concentrated under reduced pressure, water (50 ml) was added to the residue, extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(chloroform:ethyl acetate=10:1), to thereby obtain 447 mg of the titled compound.

reactant | Ethyl 3-aminobenzoate | 373 mg | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | triphosgene | 225 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 194 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 856 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C=2OC=CC2)N)=O)C | C24H23N3O4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 447 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C=2OC=CC2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C34H32N4O7
